US05863936
A 100 ml 3-necked round-bottomed flask, reflux condenser, thermometer adapter, gas inlet, and Teflon stirrer were oven-dried for 12 hours at 160° C. The apparatus was rapidly assembled, fitted with a thermometer, flushed with dry nitrogen gas, sealed with rubber septa, and allowed to cool to room temperature. The cooled reaction flask was charged with anhydrous dimethyl sulfoxide (40 ml), 2-fluoro-6-chlorobenzaldehyde (5 g, 31.53 mmole), anhydrous triethylamine (2.5 equivalents, 78.83 mmole, 7.976 g, 11 ml) and methyl thioglycolate (1.1 equivalents, 3.681 g, 3.10 ml, 34.68 mmole). The reaction mixture was heated to 75° C. with rapid stirring. The progress of the reaction was monitored by thin-layer chromatography (TLC, silica, 10% dichloromethane-hexane developing solution and UV visualization). After 3 hours the reaction mixture was allowed to cool to room temperature and poured into an ice/water mixture (250 ml). The resulting slurry was stirred for 20 minutes, filtered, washed with cold water (2×100 ml) and dried in vacuo to give 6.07 g (85%) of methyl 4-chlorobenzo[b]thiophene-2-carboxylate. See, A. J. Bridges, A. Lee, E. C. Madukor, and C. E. Schwartz, Tetrahedron Letters, 33:7499 (1992).

reactant | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
reactant | 2-fluoro-6-chlorobenzaldehyde | 31.53 mmole, 5 g | FC1=C(C=O)C(=CC=C1)Cl | C7H4ClFO
reactant | triethylamine | 78.83 mmole, 11 ml, 7.976 g, 2.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | methyl thioglycolate | 34.68 mmole, 3.10 ml, 3.681 g, 1.1 equivalents | C(CS)(=O)OC | C3H6O2S
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | methyl 4-chlorobenzo[b]thiophene-2-carboxylate | 6.07 g, 85% | ClC1=CC=CC=2SC(=CC21)C(=O)OC | C10H7ClO2S
